US05441975
(d) (±)-N-[2,6-Bis(1-methylethyl)phenyl]-2-dodecyl-α-fluoro-α-phenyl-2H-tetrazole-5-acetamide
Oxalyl chloride (0.08 mL, 0.92 mmole) was added to a stirred solution of 2-dodecyl-α-fluoro-α-phenyl-2H-tetrazole-5-acetic acid (0.24 g, 0.61 mole) in 5 mL of CH2Cl2 at room temperature. The mixture was stirred 60 minutes, the one drop of DMF was added (immediate gas evolution). The solution was stirred overnight, concentrated (rotovap), toluene was added, and the solution concentrated again. The residue was dissolved in CH2Cl2 (3 mL) and added to a stirred solution of 2,6-diisopropylaniline (0.12 mL, 0.61 mole) and Et3N (0.14 mL, 1.0 mole) in CH2Cl2 (2 mL) cooled to 0° C. under dry nitrogen. After 20 minutes, the ice bath was removed and the solution allowed to warm to room temperature and stirred for 3 days. The mixture was then diluted with ethyl acetate (150 mL) and washed with dilute HCl (50 mL), bicarbonate (50 mL), brine (50 mL), and dried. Filtration and concentration afforded an oil which was flash chromatographed (silica gel, 10: 1 hexanes-ethyl acetate) to produce 150 mg of the title compound as an oil which solidified on standing.

reactant | Oxalyl chloride | 0.92 mmole, 0.08 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-dodecyl-α-fluoro-α-phenyl-2H-tetrazole-5-acetic acid | 0.61 mole, 0.24 g | C(CCCCCCCCCCC)N1N=C(N=N1)C(C(=O)O)(C1=CC=CC=C1)F | C21H31FN4O2
reactant | 2,6-diisopropylaniline | 0.61 mole, 0.12 mL | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | Et3N | 1.0 mole, 0.14 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (±)-N-[2,6-Bis(1-methylethyl)phenyl]-2-dodecyl-α-fluoro-α-phenyl-2H-tetrazole-5-acetamide | 150 mg | CC(C)C1=C(C(=CC=C1)C(C)C)NC(C(C=1N=NN(N1)CCCCCCCCCCCC)(C1=CC=CC=C1)F)=O | C33H48FN5O
